US06326359B1
N-(9-[(2R,3R,4R,5R)-3,4-Bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-2-{[2-(1-piperidinyl)ethoxy]methyl}-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine
Sodium hydride (24 mg of an 80% dispersion in mineral oil, 0.81 mmol) was added to a stirred solution of {9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate (500 mg, 0.63 mmol) (preparation 16) and 2-(1-piperidinyl)-1-ethanol) (105 mg, 0.81 mmol) in tetrahydrofuran (5 ml). The reaction mixture was stirred for 24 hr at room temperature and then heated at reflux for a further 8 hr. The reaction mixture was then poured into cold water and extracted with ethyl acetate. The organic phase was separated, washed with brine and dried with anhydrous sodium sulfate. The solvent was then removed under reduced pressure to give a residue which was purified by column chromatography on silica gel eluting with a solvent system of dichloromethane:methanol (95:5) to give the title compound (101 mg) as an oil. MS: 833 (MH+).

reactant | Sodium hydride | [H-].[Na+]
reactant | {9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate | 0.63 mmol, 500 mg | CS(=O)(=O)OCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H59N5O7SSi2
reactant | 2-(1-piperidinyl)-1-ethanol | N1(CCCCC1)CCO | C7H15NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(9-[(2R,3R,4R,5R)-3,4-Bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-2-{[2-(1-piperidinyl)ethoxy]methyl}-9H-purin-6-yl)-N-(2,2-diphenylethyl)amine | 101 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)COC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)COCCN1CCCCC1 | C45H70N6O5Si2
